US09056859B2
A solution of compound methyl (3-cyano-4-fluorophenyl)acetate (200 mg, 1.03 mmol) in 15 mL of anhydrous THF was cooled to −78° C. NaHMDS (1.11 mmol) was added to the reaction dropwise at −78° C. After the addition, the mixture was stirred at −78° C. for 1 h and then CH3I (160 mg, 1.33 mmol) was added to the reaction dropwise at −78° C. The reaction was warmed to room temperature slowly and stirred at ambient temperature over night. The reaction was quenched with NH4Cl solution, extracted with EtOAc. The orgianic layer was washed with saturated chloride, dried over anhydrous sodium sulfate and concentrated. The residue was purified via preparative TLC to afford methyl 2-(3-cyano-4-fluorophenyl)propanoate.

reactant | methyl (3-cyano-4-fluorophenyl)acetate | 1.03 mmol, 200 mg | C(#N)C=1C=C(C=CC1F)CC(=O)OC | C10H8FNO2
reactant | NaHMDS | 1.11 mmol | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | CH3I | 1.33 mmol, 160 mg | CI | CH3I
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | methyl 2-(3-cyano-4-fluorophenyl)propanoate | C(#N)C=1C=C(C=CC1F)C(C(=O)OC)C | C11H10FNO2
